US06906085B2
Allyl (1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethyl ether
To a stirred solution of (1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethanol (5.00 g) in tetrahydrofuran (20 ml) at 0° C. was added sodium hydride (60% dispersion in mineral oil, 1.16 g). After 30 minutes, allyl bromide (3.35 ml) was added and the mixture refluxed for 16 hours. The reaction was quenched by careful addition of saturated NH4Cl solution at 0° C. and diluted with diethyl ether. The organics were dried (brine, MgSO4) and concentrated under reduced pressure to afford the title compound as a crude oil.

reactant | (1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethanol | 5.00 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O)(F)F | C10H8F6O
reactant | sodium hydride | 1.16 g | [H-].[Na+]
reactant | allyl bromide | 3.35 ml | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Allyl (1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethyl ether | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)OCC=C)(F)F | C13H12F6O
